US06900309B1
9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide
To a stirred solution of 6-[(2,2-diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-9H-purine-2-carboxamide (assumed to be 310 g, 0.426 moles) (Preparation 24) and 1,2-dimethoxyethane (1600 ml) was added 5M aqueous sodium hydroxide solution (640 ml, 3.2 moles) over a 45 minute period with cooling in ice. The resultant mixture was stirred at ambient temperature for 3 hours, and then the layers were separated. The stirred organic phase was then diluted with deionised water (1800 ml) with cooling. When the addition was complete, the resultant mixture was heated to 50-55° C. whereupon crystallisation started. To this heated and stirred suspension was added further deionised water (1800 ml) over a period of 50 minutes. Once the addition was complete, the resultant slurry was cooled to 10° C. over a period of 45 minutes and the resulting solid was then collected by filtration. The solid was washed with a solution of 1,2-dimethoxyethane (400 ml) and deionised water (800 ml) and was then dried at 55° C. under reduced pressure to give the crude title compound as a brown solid (203 g).

reactant | 6-[(2,2-diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-9H-purine-2-carboxamide | 0.426 moles, 310 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCN1CCCCC1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C1=CC=CC=C1 | C38H45N7O8
reactant | sodium hydroxide | 3.2 moles, 5M, 640 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 1600 ml | COCCOC | C4H10O2
product | 9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide | 203 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NCCN1CCCCC1 | C32H39N7O5
